US07582589B2
Step A: 2-Iodo-3-formylaminothiophene
3-Formylamino-thiophene (21 g), N-iodosuccinimide (37.2 g) and tetrachlormethane (200 ml) were refluxed together for 3 hours. The reaction mixture was cooled to 0-5° C. and filtered. The solids were dissolved in ethyl acetate, washed three times with sodium hydroxide (10% solution), washed with brine and dried over sodium sulfate. Evaporation of the solvents and chromatography of the residue over silica gel (hexane:ethyl acetate 2:1) yielded 37.8 g of product (m.p. 100-107° C.) which was directly used in Step B.

reactant | 3-Formylamino-thiophene | 21 g | C(=O)NC1=CSC=C1 | C5H5NOS
reactant | N-iodosuccinimide | 37.2 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | tetrachlormethane | 200 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-Iodo-3-formylaminothiophene | 37.8 g | IC=1SC=CC1NC=O | C5H4INOS
